US09126931B2
2,3-Dichloro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, to the 1,4-dioxane (1.7 mL)-water (0.1 mL) solution of 2,3-dichloro-8-methoxy-6,6-dimethyl-6,11-dihydro-5H-benzo[b]carbazole (Compound Y2, 61.0 mg, 0.176 mmol), DDQ (120 mg, 0.529 mmol) was added and the mixture was stirred at room temperature for 16 hr and 15 min. The reaction mixture was purified by flash column chromatography {Merck Kieselgel60, solution for elution:hexane/ethyl acetate (2:1)} to obtain the title compound (pale orange solid, 16.7 mg, 26%).

reactant | 1,4-dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
reactant | 2,3-dichloro-8-methoxy-6,6-dimethyl-6,11-dihydro-5H-benzo[b]carbazole | 0.176 mmol, 61.0 mg | ClC=1C=C2C=3CC4=C(C(C3NC2=CC1Cl)(C)C)C=C(C=C4)OC | C19H17Cl2NO
reactant | DDQ | 0.529 mmol, 120 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | water | 0.1 mL | O | H2O
product | 2,3-Dichloro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 16.7 mg, 26% | ClC=1C=C2C=3C(C4=C(C(C3NC2=CC1Cl)(C)C)C=C(C=C4)OC)=O | C19H15Cl2NO2
